US07371869B2
A solution of 2-{(S)-2-[2-amino-2-(4-methoxy-3-methyl-phenyl)-acetylamino]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester (0.40 g , 0.83 mmol) and diisopropylethylamine (0.72 mL, 4.14 mmol) in dichloromethane (20 mL) was added to a solution of diphosgene (0.07 mL, 0.58 mmol) in dichloromethane (20 mL) at −10° C. The mixture was stirred at −10° C. for 0.5 hours. Water was added to quench the reaction, then the mixture was extracted with ethyl acetate. The organic layer was separated, washed with water, brine, dried over sodium sulfate and concentrated. The residue was purified by chromatography over silica gel eluted with ethyl acetate to give 2-{(S)-2-[4-(4-methoxy-3-methyl-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester as an off white foam (0.29 g, 69%).

reactant | 2-{(S)-2-[2-amino-2-(4-methoxy-3-methyl-phenyl)-acetylamino]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester | 0.83 mmol, 0.40 g | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC(C(C1=CC(=C(C=C1)OC)C)N)=O)=O | C24H26N4O5S
reactant | diisopropylethylamine | 4.14 mmol, 0.72 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphosgene | 0.58 mmol, 0.07 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | Water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-{(S)-2-[4-(4-methoxy-3-methyl-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)N1C(NC(C1=O)C1=CC(=C(C=C1)OC)C)=O)=O | C25H24N4O6S
